Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
umbilical hernia in cirrhotic patient, leaking ascites and with 
skin changes

 
Major Surgical or Invasive Procedure:
___: Umbilical hernia repair

 
History of Present Illness:
Mr. ___ is a ___ male with history of
decompensated alcohlic and Hepatitis C cirrhosis (MELD 14, Child
___ B) who presents for evaluation of leakage of ascites from,
and skin changes at the site of his known umbilical hernia. He
has had this hernia for at least ___ year, and per notes by Dr.
___ Hepatology who he saw in ___, the hernia was
intermittent leaking ascites and blood even at that time. 

Today, he reports a sudden episode of "bursting" and 
large-volume
leakage of ascites from the umbilical hernia. He feels that the
skin changes (please see 'Physical Exam' for more details) and
erythema have been chronic but seemed a bit worsened today. He
reports mild pain primarily at that site. He has been taking 
POs,
most recently having had and tolerated a meal 4 hours prior to
consultation. He has no nausea/vomiting, reports +flatus, and 
has
been having normal BMs. Denies any fevers/chills, and has no
CP/SOB. 
 
ROS:
(+) per HPI

 
Past Medical History:
Hepatitis C and alcoholic cirrhosis, portal
hypertension with ascites, insomnia, umbilical hernia

Past Surgical History: None

 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
GEN: A&O, NAD, interactive and cooperative 
HEENT: No scleral icterus
CV: RRR, no murmurs/rubs
PULM: Clear to auscultation b/l
ABD: Soft, note of large umbilical hernia with patchy necrotic
skin changes over protruding umbilical skin with visible
subcutaneous tissues, erythematous skin, no visible bowel loops
or active drainage of ascites at time of exam (although reported
large volume leakage of ascites per patient), mildly tender with
deep palpation diffusely, no rebound/guarding
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
On Admission: ___
WBC-15.8* RBC-3.62* Hgb-12.2* Hct-38.8* MCV-107* MCH-33.6* 
MCHC-31.3 RDW-13.6 Plt ___ PTT-34.5 ___
Glucose-113* UreaN-16 Creat-1.0 Na-123* K-4.4 Cl-89* HCO3-23 
AnGap-15
ALT-17 AST-49* AlkPhos-67 TotBili-2.6*
Albumin-3.0*
Calcium-7.7* Phos-3.4 Mg-1.6
Lactate-2.7*
.
___ 06:13AM BLOOD Lactate-1.4
.
At Discharge: ___
WBC-10.5 RBC-3.48* Hgb-11.9* Hct-36.5* MCV-105* MCH-34.2* 
MCHC-32.6 RDW-13.1 Plt ___
Glucose-91 UreaN-18 Creat-0.7 Na-130* K-4.3 Cl-96 HCO3-25 
AnGap-13
ALT-15 AST-41* AlkPhos-68 TotBili-0.7
Calcium-8.0* Phos-3.4 Mg-2.___ y/o male who presented through the ED with ascites leakage 
from a previously existing umbilical hernia.
Patient was evaluated and urgently taken to the OR with Dr 
___ for  umbilical hernia repair with a diagnosis of 
Cirrhosis and leaking in a necrotic
umbilical hernia.

At the time of surgery there was necrotic umbilical skin at the 
abdominal wall.  The
hernia sac was entered and transected. There were several 
varices present which were  ligated. The umbilicus and hernia 
sac were completely resected, the defect was about 4 cm which 
was primarily closed. Approximately one liter of ascites was 
drained at the time of surgery. He did receive albumin for this 
ascites drainage. 
The patient tolerated the procedure without complication, was 
extubated and transferred to PACU in stable condition.

Blood cultures were obtained on admission to ED, and a culture 
was sent from the ascites fluid drained at the time of the 
surgery. There was no growth in either specimen.
He was given IV Ceftriaxone while hospitalized, was transitioned 
to PO Cipro for home with a one week course of BID, and then 
daily for prophylaxis

Post operatively, the patient did well. The dressing remained 
clean dry and intact with no ascites drainage noted.
The Foley was removed on the evening of POD 1, and he voided 
without difficulty.

His diet was advanced, and was ultimately placed on a low sodium 
diet, seen by nutrition and recommended for supplements in 
addition to his usual diet.

His abdomen remained fairly flat with no evidence of large 
volume ascites re accumulation.
Incision was open to air, and remained clean dry and intact.
He was evaluated by ___ who found him to have no specific ___ 
needs for home.
He will have close follow up in the outpatient clinic

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 60 mg PO DAILY 
2. Mirtazapine 7.5 mg PO HS 
3. Spironolactone 100 mg PO DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. TraMADOL (Ultram) 50 mg PO TID:PRN pain 

 
Discharge Medications:
1. Furosemide 60 mg PO DAILY 
2. Mirtazapine 7.5 mg PO HS 
3. Pantoprazole 40 mg PO Q12H 
4. Spironolactone 100 mg PO DAILY 
5. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
6. Docusate Sodium 100 mg PO BID 
Stop use if having diarrhea 
7. Multivitamins W/minerals 1 TAB PO DAILY poor nutrition status 

8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
No driving if taking this medication. Taper use as tolerated 
RX *oxycodone 5 mg 1 tablet(s) by mouth q 4 hours Disp #*30 
Tablet Refills:*0
9. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
10. Ciprofloxacin HCl 500 mg PO Q24H 
Start daily (___) for SBP prophylaxis once twice daily 
completed in one week 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Umbilical hernia s/p repair
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call Dr ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, yellowing of the skin or 
eyes, inability to tolerate food, fluids or medications, 
incisional redness, drainage or bleeding, or any other 
concerning symptoms.

You may shower. Allow water to run over the incision. Pat the 
area dry, do not apply lotions or powders to the incision area. 

No lifting more than 10 pounds
No driving if taking narcotic pain medication

Continue all home medications
Take Antibiotic Cipro 500 mg two times a day for 1 week, then 
take 500 mg once a day. This is to prevent abdominal fluid 
infection
 
Followup Instructions:
___